US09382236B2
1-(2-Aminophenyl)-N-[4-(2,4-dioxo-1,2,3,4-tetrahydronaphtho[1,2-b][1,4]diazepin-5-yl)phenyl]phenyl-N-methylmethanesulfonamide
1-(2-Nitrophenyl)-N-[4-(2,4-dioxo-1,2,3,4-tetrahydronaphtho[1,2-b][1,4]diazepin-5-yl)phenyl]phenyl-N-methylmethanesulfonamide (33 mg, 0.062 mmol) mentioned above was dissolved in a mixed solvent of dichloromethane (0.5 mL) and ethyl acetate (1.5 mL), then the solution was added with tin(II) chloride dihydrate (70 mg, 0.310 mmol), and the mixture was stirred at 30° C. for 16 hours. After the disappearance of the starting materials was confirmed, the reaction mixture was treated in a conventional manner to give the title compound (26 mg, yield 31%) as white crystals.

reactant | 1-(2-Nitrophenyl)-N-[4-(2,4-dioxo-1,2,3,4-tetrahydronaphtho[1,2-b][1,4]diazepin-5-yl)phenyl]phenyl-N-methylmethanesulfonamide | 0.062 mmol, 33 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1(CC=CC=C1)CS(=O)(=O)N(C)C1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2 | C33H28N4O6S
reactant | tin(II) chloride dihydrate | 0.310 mmol, 70 mg | O.O.[Sn](Cl)Cl
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-Aminophenyl)-N-[4-(2,4-dioxo-1,2,3,4-tetrahydronaphtho[1,2-b][1,4]diazepin-5-yl)phenyl]phenyl-N-methylmethanesulfonamide | 26 mg, yield 31% | NC1=C(C=CC=C1)C1(CC=CC=C1)CS(=O)(=O)N(C)C1=CC=C(C=C1)N1C2=C(NC(CC1=O)=O)C1=CC=CC=C1C=C2 | C33H30N4O4S
